US07351825B2
a) (1R*,2R*,3R*)-2-hydroxymethyl-1-(methoxy-methyl-carbamoyl)-3-phenyl-cyclopropanecarboxylic acid t-butyl ester
In a 100 mL round-bottomed flask, a solution of N,O-dimethyl hydroxylamine HCl was suspended in 20 mL of dichloromethane. After cooling to 0° C., trimethyl aluminum (2 M in toluene. 3.83 mL, 7.66 mmol) was added dropwise and the mixture was stirred at 0° C. for 45 min. A solution of the previously described (1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid tert-butyl ester (0.3 g, 1 mmol) in 10 mL of dichloromethane was added dropwise to the cooled stirring solution. After stirring at 0° C. for 5 min, the reaction mixture was warmed to room temperature and stirred for 3 hours. After the reaction was completed, the reaction mixture was again cooled in an ice bath and acidified with 10 mL of 1N HCl, extracted with dichloromethane (×3), dried over MgSO4 and concentrated to afford 0.32 g (86%) of the desired product as a clear oil.

reactant | N,O-dimethyl hydroxylamine HCl | Cl.CNOC
reactant | trimethyl aluminum | 7.66 mmol, 2 M, 3.83 mL | C[Al](C)C
reactant | (1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid tert-butyl ester | 1 mmol, 0.3 g | C(C)(C)(C)OC(=O)[C@]12C(OC[C@@H]2[C@@H]1C1=CC=CC=C1)=O | C16H18O4
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1R*,2R*,3R*)-2-hydroxymethyl-1-(methoxy-methyl-carbamoyl)-3-phenyl-cyclopropanecarboxylic acid t-butyl ester | 0.32 g, 86% | C(C)(C)(C)OC(=O)[C@]1([C@@H]([C@@H]1C1=CC=CC=C1)CO)C(N(C)OC)=O | C18H25NO5
